US07262185B2
To 2-methyl-3-[[(5-nitro-2-pyridinyl)sulfanyl]methyl]pyridine (4.0 g) was added 85% aqueous solution of ethanol (80 ml), calcium chloride (0.86 g) and reduced iron (4.3 g) were added to the mixture, and the mixture was heated to reflux for 3 hours. After allowing the mixture to be cooled to room temperature, and the solvent was removed under reduced pressure. The mixture was filtered with. Celite, and washed with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-[[(2-methyl-3-pyridinyl)methyl]sulfanyl]aniline (3.2 g).

reactant | 2-methyl-3-[[(5-nitro-2-pyridinyl)sulfanyl]methyl]pyridine | 4.0 g | CC1=NC=CC=C1CSC1=NC=C(C=C1)[N+](=O)[O-] | C12H11N3O2S
reactant | calcium chloride | 0.86 g | [Cl-].[Ca+2].[Cl-]
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 4-[[(2-methyl-3-pyridinyl)methyl]sulfanyl]aniline | 3.2 g | CC1=NC=CC=C1CSC1=CC=C(N)C=C1 | C13H14N2S
